US06001856
Example Thirteen (R)-N-(5-Oxiranyl-pyridin-2-yl)-acetamide.
A solution of (R)-toluene-4-sulfonic acid 2-(6-acetylamino-pyridin-3-yl)-2-hydroxy-ethyl ester (200 g, 0.57 mol) in THF (2.4 L) was cooled to -15° C. and potassium t-butoxide (542 ml, 0.542 mol, 1M in THF) was added slowly at -15° C. to -10° C. over a two hour period. Stirring was continued at -15° C. for an additional 40 minutes. The reaction mixture was filtered with the aid of Celite®. The filtration was done through cloth precoated with Celite®. The filter cake was washed with tetrahydrofuran. The filtrate was concentrated under vacuum to afford 300 ml of an oil. The oil was diluted with 1.2 liters of hexanes which resulted in the formation of a solid. The suspension was stirred at room temperature for one hour to granulate the solid. The suspension was filtered and the filtrate was washed with hexanes to afford 80.0 g (78.8%) of the title product as a solid. mp 96-98° C. 1H NMR (CDCl3): δ=8.70 (br, 1 H); 8.21 (m, 2 H); 7.57 (d of d, 1 H); 3.86 (m, 1 H); 3.17 (m, 1 H); 2.83 (m, 1 H); 2.19 (s, 3 H). MS (Cl): m/z=179 (M+H+).

reactant | (R)-toluene-4-sulfonic acid 2-(6-acetylamino-pyridin-3-yl)-2-hydroxy-ethyl ester | 0.57 mol, 200 g | C(C)(=O)NC1=CC=C(C=N1)[C@H](COS(=O)(=O)C1=CC=C(C=C1)C)O | C16H18N2O5S
reactant | potassium t-butoxide | 0.542 mol, 1M, 542 ml | CC(C)([O-])C.[K+]
solvent | THF | 2.4 L | C1CCOC1 | C4H8O
product | (R)-N-(5-Oxiranyl-pyridin-2-yl)-acetamide | 300 ml | O1[C@@H](C1)C=1C=CC(=NC1)NC(C)=O | C9H10N2O2
